US07087626B2
4-[2-(6-Methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-7-vinyl-quinoline
Nitrogen is bubbled through a solution of 7-bromo-4-[2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinoline (0.050 g, 0.14 mmol) and tributylvinyltin (0.079 mL, 0.22 mmol) in toluene (2.0 mL) for 20 min. Pd(PPh3)2Cl2 is added and nitrogen bubbled through the reaction mixture for another 10 min. The mixture is heated to 90° C. for 24 h, concentrated in vacuo, and the residue chromatographed on SiO2 (elute with 2% methanol in methylene choloride) to yield the title compound, 0.030 g (61%), as a yellowish solid.

reactant | 7-bromo-4-[2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinoline | 0.14 mmol, 0.050 g | BrC1=CC=C2C(=CC=NC2=C1)C1=C2N(N=C1C1=NC(=CC=C1)C)CCC2 | C21H17BrN4
reactant | tributylvinyltin | 0.22 mmol, 0.079 mL | C(CCC)C(=C(CCCC)CCCC)[Sn]
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)2Cl2 | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-[2-(6-Methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-7-vinyl-quinoline | CC1=CC=CC(=N1)C=1C(=C2N(N1)CCC2)C2=CC=NC1=CC(=CC=C21)C=C | C23H20N4
